2193-11-05 21:42:00 Physician Attending Progress Note
Chief Complaint: hypotension, cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62W morbidly obese, DM - recent admission for abdominal wall cellulitis
   - re-admitted yesterday with abdominal pain and progressive cellulitis
   and ulceration and necrosis of cellulitic area along with left breast
   edema. Became hypotensive requiring CVL and dopamine. Echo appeared
   normal. Left LE swelling evaluated with LENI which was poor quality.
   She was treated with vanco, zosyn and cipro. Given IVF though quantity
   not clear. Surgery there recommended transferred for further care.
   Plastics has already performed debridement.
   History obtained from Medical records, housestaff
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   DM
   CRI
   CDiff recently due to augmentin - on PO vanco
   RA - on embrel, MTX
   obesity
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Integumentary (skin): cellulitis
   Flowsheet Data as of  [**2193-11-5**] 09:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 102 (90 - 111) bpm
   BP: 139/20(43) {112/20(43) - 139/42(55)} mmHg
   RR: 22 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
             113 mL
   PO:
             TF:
   IVF:
   113 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    175 mL
   Urine:
   175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 2 L NC
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: 3+
   Skin:  erythem and ulceration of pannus, knee and heel ulcers
   Neurologic: Oriented (to): x 3
   Labs / Radiology
   7.7 g/dL
   71 K/uL
   117 mg/dL
   1.2 mg/dL
   27 mEq/L
   5.0 mEq/L
   37 mg/dL
   107 mEq/L
   136 mEq/L
   24.2 %
   19.2 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
   WBC
   19.2
   Hct
   24.2
   Plt
   71
   Cr
   1.2
   Glucose
   117
   Other labs: PT / PTT / INR:15.6/33.8/1.4, Differential-Neuts:78.0 %,
   Band:10.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR uninterpretable
   ECG: ST 100, unremarkable
   Assessment and Plan
   hypotension due to septic shock / cellulitis - Plastics has already
   debrided the area and recommend conservation managment for now. Will
   continue broad spectrum antibiotics and dressing changes. Provide IVF
   to maintain adequate urine output and wean dopamine. Will follow
   cultures from OSH.
   LE edema - will repeat LENI, lovenox for prophylaxis for now. If
   positive will start argatroban and send HIT
   DM - cont insulin
   Thrombocytopenia - possible causes include sepsis, antibiotics and HIT.
   Follow for now.
   Recent CDIff
 continue PO vanco
   ICU Care
   Nutrition: DM diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2193-11-06 06:53:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2193-11-5**] 07:00 PM
   inserted  in OSH
 EKG - At [**2193-11-5**] 08:30 PM
 EKG - At [**2193-11-5**] 11:45 PM
   -Seen by plastic surgery overnight, who felt that wound could be
   managed conservatively. Recommended consulting general surgery if
   patient decompensated.
   -Radiology attempted LENI of LLE yesterday without success [**1-21**] to
   patient
s body habitus.
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-5**] 09:45 PM
   Vancomycin - [**2193-11-6**] 12:00 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2193-11-5**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-6**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 115 (90 - 115) bpm
   BP: 117/37(54) {98/20(43) - 139/74(79)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,586 mL
                                                                  1,755 mL
   PO:
                                                                    100 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,486 mL
                                                                  1,705 mL
   Blood products:
   Total out:
                                                                    464 mL
                                                                    350 mL
   Urine:
                                                                    464 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,122 mL
                                                                  1,405 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   GENERAL: Morbidly obese woman in NAD.
   HEENT: Normocephalic, atraumatic. No scleral icterus.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI systolic
   murmur at right sternal border.
   LUNGS: Quiet lungs sounds throughout.
   BREASTS: Edematous left breast.
   ABDOMEN: Very obese, with peau-d'orange skin changes. Large area of
   erythema and warmth in left lower abdomen extending into intertrigous
   area under pannus, with areas of ulceration and skin necrosis  Abdomen
   tender only in area with skin changes..
   EXTREMITIES: 3+ LLE edema. 1+ RLE edema. Unable to palpate pulses [**1-21**]
   edema, but extremities are warm and well-perfused.
   SKIN: Ulceration of bilateral knees, right heel, and right elbow, with
   black eschar over ulcers. Cellulitis of left leg. Abdominal cellulitis
   as noted above. Sacral decubitus ulcer.
   NEURO: A&Ox3. Appropriate. CN II-XII intact. Strength 5/5 in upper
   extremities. Dorsiflexion/plantarflexion [**4-23**] bilaterally. Proximal
   lower extremity strength testing limited by edema. Sensation intact
   distally to light touch.
   Labs / Radiology
   70 K/uL
   7.9 g/dL
   199 mg/dL
   1.1 mg/dL
   25 mEq/L
   5.4 mEq/L
   38 mg/dL
   108 mEq/L
   136 mEq/L
   25.0 %
   27.7 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
   WBC
   19.2
   27.7
   Hct
   24.2
   25.0
   Plt
   71
   70
   Cr
   1.2
   1.1
   TropT
   0.06
   0.05
   Glucose
   117
   199
   Other labs: PT / PTT / INR:16.4/36.7/1.5, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:29/32, Alk Phos / T Bili:148/0.7,
   Differential-Neuts:93.0 %, Band:2.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, LDH:190 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 62 yo F with abdominal cellulitis, elevated WBC,
   sinus tachycardia, hypotension requiring dopamine, hypoxemia, left
   lower extremity edema, concerning for necrotic cellulitis as well as
   sepsis.
   .
   #. Hypotension: Likely [**1-21**] sepsis although DDx included pulmonary
   embolism. Elevated WBC, bandemia, and clear focus of infection support
   sepsis. LENIs have been non-diagnostic [**1-21**] to patient's body habitus.
   Risk factors for PE include recent immobility and morbid obesity.
   -bolus with IVF
   -keep MAP>65
   -wean dopamine as tolerated
   -culture blood, urine, wound
   -pull central line from outside hospital and replace with PICC
   -monitor UOP
   -trend fever curve, WBC
   -f/u echo to look for right heart strain
   -after discussion with team, decided not to pursue CTA
   .
   #. Necrotic abdominal wounds/cellulitis: Patient seen by plastic
   surgery, who feel that this is not necrotizing fasciitis and recommend
   conservative management for now.
   -appreciate plastic surgery recs
   -consult general surgery
   -continue vancomycin and zosyn; increase vancomycin dose given
   patient
s weight of 177 kg
   -check vanco trough prior to 4th dose
   -f/u wound cx
   -wound care consult
   .
   #. Thrombocytopenia: Platelets were around 250 in [**9-/2193**] and are now
   down to 77. Patient has been on heparin SC during this time. Of note
   during her last admission for Klebsiella UTI her platelets dropped but
   also recovered while on heparin SC.
   -trend platelets
   -f/u HIT antibody
   -change lovenox to fondaparinux
   .
   #. DM2: Had episodes of hypoglycemia at [**Hospital3 2346**]. Now
   hyperglycemic here. Will need tight glycemic control in setting of
   infection.
   -Humalog insulin sliding scale
   -status Lantus once patient
s insulin requirements are more clear.
   .
   #. Rheumatoid arthritis: Immunosuppressive meds are predisposing factor
   for sepsis in this patient.
   -hold methotrexate, Cytotec, and Embrel in the setting of infection
   .
   #. c diff: appears to be improving with normal BM here. C. diff
   unlikely to be source of sepsis.
   -continue PO Vanco
   -monitor stool
   .
   #. Anemia: Chronic. Baseline reportedly around around 24. Iron studies
   at [**Location (un) **] showed low iron, with iron 18, TIBC, 138, ferritin 772,
   consistent with iron deficiency and/or chronic disease.
   -monitor Hct
   -transfuse for Hct<21
   -T & S
   .
   #. Acute on chronic renal failure: Likely prerenal in the setting of
   hypotension
   -monitor creatinine
   -renally dose meds
   -avoid nephrotoxins
   -will not get CTA in order to avoid further kidney injury
   .
   #. ?Penicillin allergy: Patient has tolerated Augmentin and Zosyn, so
   this seems unlikely.
   -will give Zosyn to treat patient's infection
   ICU Care
   Nutrition: NPO for now, pending surgery recs re: need for operative
   debridement.  IV fluid boluses to maintain BP.
   Glycemic Control: continue insulin sliding scale; consider starting
   Lantus as well
   Lines:
   Multi Lumen - [**2193-11-5**] 07:00 PM (d/c this line today)
   Place PICC today for access.
   Prophylaxis:
   DVT: Change Lovenox to fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Her sister [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11596**] [**Telephone/Fax (1) 11597**].
   Code status: Full code, confirmed with patient.
   Disposition: ICU

2193-11-06 10:08:00 Physician Attending Progress Note
Chief Complaint: hypotension, abdominal wound infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2193-11-5**] 07:00 PM
   inserted  in OSH
 EKG - At [**2193-11-5**] 08:30 PM
 EKG - At [**2193-11-5**] 11:45 PM
   Dopamine restarted for hypotension overnight, also received further
   volume resusitation
   Plastic surgery consultation overnight for bedside debridement
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-5**] 09:45 PM
   Vancomycin - [**2193-11-6**] 12:00 AM
   Piperacillin - [**2193-11-6**] 08:00 AM
   Infusions:
   Dopamine - 1 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2193-11-5**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2193-11-6**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 110 (90 - 118) bpm
   BP: 137/46(67) {98/20(43) - 142/74(79)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,586 mL
                                                                  1,968 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,486 mL
                                                                  1,868 mL
   Blood products:
   Total out:
                                                                    464 mL
                                                                    445 mL
   Urine:
                                                                    464 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,122 mL
                                                                  1,523 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout)
   Abdominal: morbidly obese abdomen, lymphedema,
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, bilateral knee excoriations with eschar
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   70 K/uL
   199 mg/dL
   1.1 mg/dL
   25 mEq/L
   5.4 mEq/L
   38 mg/dL
   108 mEq/L
   136 mEq/L
   25.0 %
   27.7 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
   WBC
   19.2
   27.7
   Hct
   24.2
   25.0
   Plt
   71
   70
   Cr
   1.2
   1.1
   TropT
   0.06
   0.05
   Glucose
   117
   199
   Other labs: PT / PTT / INR:16.4/36.7/1.5, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:29/32, Alk Phos / T Bili:148/0.7,
   Differential-Neuts:93.0 %, Band:2.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, LDH:190 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.4 mg/dL
   Imaging: LE dopllers here TLS
   Microbiology: Blood culture x 2 at outside hospital NGTD
   Wound culture at outside hospital pending
   Assessment and Plan
 HYPOTENSION:  Secondary to volume depletion and sepsis.  Abdominal
   wound infection likely source. Still requiring low dose dopamine.  On
   vanco/zosyn, adjust dose given body habitus.  Follow up on cultures.
   Surgical service following along to guide need for debridement.
 ABDOMINAL WOUND INFECTION:  As above. Will try conservative
   management as per surgery but may need to go for operative
   debridement.
 C. Diff:  Oral vanco.  No diarrhea here.
 THROMBOCYTOPENIA:  Had normal platelets prior to admission.  Stable
   but remain at 70K.  Had been on heparin SC at outside hospital.  HIT
   antibody pending.  Change lovenox to foda.  Monitor platelets on vanco,
   does not seem temporally related to starting this drug but it may also
   contribute.  Feel the pros of vanco outway potential cons.
 ANEMIA: Stable.
 DIABETES MELLITUS:  Following sugars in setting of ongoing infection,
   RISS as needed.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-11-5**] 07:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2193-11-07 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Gen [**Doctor First Name **] says nothin to do since pt refuses anesthesia & any
   debridement of ulcers in OR
   -checkin vanc trough at 1830 today prior to dose at [**2183**] as per pharm
   -off dopamine
   -IV team says cant place PICC today d/t elevated WBC
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2193-11-6**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-6**] 10:58 PM
   Vancomycin - [**2193-11-7**] 01:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-7**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 88 (81 - 110) bpm
   BP: 105/42(57) {79/28(43) - 137/66(80)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 22 (8 - 27)mmHg
   Total In:
                                                                  3,346 mL
                                                                  1,891 mL
   PO:
                                                                    770 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  2,576 mL
                                                                  1,641 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    230 mL
   Urine:
                                                                    850 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,496 mL
                                                                  1,661 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GENERAL: Morbidly obese woman in NAD.
   HEENT: Normocephalic, atraumatic. No scleral icterus.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI systolic
   murmur at right sternal border.
   LUNGS: Quiet lungs sounds throughout.
   BREASTS: Edematous left breast.
   ABDOMEN: Very obese, with peau-d'orange skin changes. Large area of
   erythema and warmth in left lower abdomen extending into intertrigous
   area under pannus, with areas of ulceration and skin necrosis  Abdomen
   tender only in area with skin changes..
   EXTREMITIES: 3+ LLE edema. 1+ RLE edema. Unable to palpate pulses [**1-21**]
   edema, but extremities are warm and well-perfused.
   SKIN: Ulceration of bilateral knees, right heel, and right elbow, with
   black eschar over ulcers. Cellulitis of left leg. Abdominal cellulitis
   as noted above. Sacral decubitus ulcer.
   NEURO: A&Ox3. Appropriate. CN II-XII intact. Strength 5/5 in upper
   extremities. Dorsiflexion/plantarflexion [**4-23**] bilaterally. Proximal
   lower extremity strength testing limited by edema. Sensation intact
   distally to light touch.
   Labs / Radiology
   47 K/uL
   7.2 g/dL
   272 mg/dL
   1.2 mg/dL
   23 mEq/L
   5.0 mEq/L
   46 mg/dL
   107 mEq/L
   135 mEq/L
   23.6 %
   22.6 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
                            [**2193-11-6**]  05:18 PM
                            [**2193-11-7**]  03:42 AM
   WBC
   19.2
   27.7
   22.6
   Hct
   24.2
   25.0
   23.6
   Plt
   71
   70
   47
   Cr
   1.2
   1.1
   1.0
   1.2
   TropT
   0.06
   0.05
   Glucose
   117
   199
   255
   272
   Other labs: PT / PTT / INR:15.0/35.7/1.3, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:24/20, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:93.0 %, Band:2.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, Albumin:1.7 g/dL, LDH:173 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 62 yo F with abdominal cellulitis, elevated WBC,
   sinus tachycardia, hypotension requiring dopamine, hypoxemia, left
   lower extremity edema, concerning for necrotic cellulitis as well as
   sepsis.
   .
   #. Hypotension: Likely [**1-21**] sepsis although DDx included pulmonary
   embolism. Elevated WBC, bandemia, and clear focus of infection support
   sepsis. LENIs have been non-diagnostic [**1-21**] to patient's body habitus.
   Risk factors for PE include recent immobility and morbid obesity.
   -bolus with IVF
   -keep MAP>65
   -wean dopamine as tolerated
   -culture blood, urine, wound
   -pull central line from outside hospital and replace with PICC
   -monitor UOP
   -trend fever curve, WBC
   -f/u echo to look for right heart strain
   -after discussion with team, decided not to pursue CTA
   .
   #. Necrotic abdominal wounds/cellulitis: Patient seen by plastic
   surgery, who feel that this is not necrotizing fasciitis and recommend
   conservative management for now.
   -appreciate plastic surgery recs
   -consult general surgery
   -continue vancomycin and zosyn; increase vancomycin dose given
   patient
s weight of 177 kg
   -check vanco trough prior to 4th dose
   -f/u wound cx
   -wound care consult
   .
   #. Thrombocytopenia: Platelets were around 250 in [**9-/2193**] and are now
   down to 77. Patient has been on heparin SC during this time. Of note
   during her last admission for Klebsiella UTI her platelets dropped but
   also recovered while on heparin SC.
   -trend platelets
   -f/u HIT antibody
   -change lovenox to fondaparinux
   .
   #. DM2: Had episodes of hypoglycemia at [**Hospital3 2346**]. Now
   hyperglycemic here. Will need tight glycemic control in setting of
   infection.
   -Humalog insulin sliding scale
   -status Lantus once patient
s insulin requirements are more clear.
   .
   #. Rheumatoid arthritis: Immunosuppressive meds are predisposing factor
   for sepsis in this patient.
   -hold methotrexate, Cytotec, and Embrel in the setting of infection
   .
   #. c diff: appears to be improving with normal BM here. C. diff
   unlikely to be source of sepsis.
   -continue PO Vanco
   -monitor stool
   .
   #. Anemia: Chronic. Baseline reportedly around around 24. Iron studies
   at [**Location (un) **] showed low iron, with iron 18, TIBC, 138, ferritin 772,
   consistent with iron deficiency and/or chronic disease.
   -monitor Hct
   -transfuse for Hct<21
   -T & S
   .
   #. Acute on chronic renal failure: Likely prerenal in the setting of
   hypotension
   -monitor creatinine
   -renally dose meds
   -avoid nephrotoxins
   -will not get CTA in order to avoid further kidney injury
   .
   #. ?Penicillin allergy: Patient has tolerated Augmentin and Zosyn, so
   this seems unlikely.
   -will give Zosyn to treat patient's infection
   ICU Care
   Nutrition: NPO for now, pending surgery recs re: need for operative
   debridement.  IV fluid boluses to maintain BP.
   Glycemic Control: continue insulin sliding scale; consider starting
   Lantus as well
   Lines:
   Multi Lumen - [**2193-11-5**] 07:00 PM (d/c this line today)
   Place PICC today for access.
   Prophylaxis:
   DVT: Change Lovenox to fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Her sister [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11596**] [**Telephone/Fax (1) 11597**].
   Code status: Full code, confirmed with patient.
   Disposition: ICU

2193-11-07 11:42:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues off pressors for more than 24 hours
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2193-11-6**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-7**] 07:45 AM
   Vancomycin - [**2193-11-7**] 08:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-7**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 91 (81 - 94) bpm
   BP: 120/43(62) {79/36(52) - 130/66(80)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 23 (8 - 27)mmHg
   Total In:
                                                                  3,346 mL
                                                                  2,578 mL
   PO:
                                                                    770 mL
                                                                    550 mL
   TF:
   IVF:
                                                                  2,576 mL
                                                                  2,028 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    340 mL
   Urine:
                                                                    850 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,496 mL
                                                                  2,238 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, morbidly obese abdomen,
   serosanguinous drainage
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, brawny edema,
   Skin:  Warm, erythema same over left calf
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   47 K/uL
   272 mg/dL
   1.2 mg/dL
   23 mEq/L
   5.0 mEq/L
   46 mg/dL
   107 mEq/L
   135 mEq/L
   23.6 %
   22.6 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
                            [**2193-11-6**]  05:18 PM
                            [**2193-11-7**]  03:42 AM
   WBC
   19.2
   27.7
   22.6
   Hct
   24.2
   25.0
   23.6
   Plt
   71
   70
   47
   Cr
   1.2
   1.1
   1.0
   1.2
   TropT
   0.06
   0.05
   Glucose
   117
   199
   255
   272
   Other labs: PT / PTT / INR:15.0/35.7/1.3, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:24/20, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:93.0 %, Band:2.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, Albumin:1.7 g/dL, LDH:173 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 DIABETES:  Hyperglycemia, difficulty with control may be in setting
   of acute infection.  consider increase lantus.
 HYPOXEMIA:  Obeisty hypoventilation syndrome, atelectasis. Follow
   clinically.
 HYPOTENSION (NOT SHOCK):  Resolved with volume resusitation.
   Continues off pressors.  Discontinue central line now that PICC in
   place.
 ABDOMINAL WALL CELULITIS/WOUND INFECTION:  Continues on vanco/zosyn.
   Concerned that vanco may be contributing to low plts, now documented
   MRSA.  ID to consult to make further antibiotic recommendations.  Wound
   care and plastic surgery following.
 THROMBOCYTOPENIA:  Platelets have continued to decrease.  DVT
   prophylaxis, will continue boots.
 RENAL INSUFFICIENCY:  Cr slightly increased, may be secondary to
   hypotension.  Follow labs and urine output.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-11-5**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2193-11-07 22:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Gen [**Doctor First Name **] recommended conservative management for now as the pt.
   refuses anesthesia & any debridement of ulcers in OR
   -The patient is currently off pressors and maintaining good BPs.
   This AM, she states that her pain is under control.  Denies SOB.
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2193-11-6**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-6**] 10:58 PM
   Vancomycin - [**2193-11-7**] 01:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-7**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 88 (81 - 110) bpm
   BP: 105/42(57) {79/28(43) - 137/66(80)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 22 (8 - 27)mmHg
   Total In:
                                                                  3,346 mL
                                                                  1,891 mL
   PO:
                                                                    770 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  2,576 mL
                                                                  1,641 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    230 mL
   Urine:
                                                                    850 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,496 mL
                                                                  1,661 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   GENERAL: Morbidly obese woman in NAD.
   HEENT: Normocephalic, atraumatic. No scleral icterus.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI systolic
   murmur at right sternal border.
   LUNGS: Quiet lungs sounds throughout.
   BREASTS: Edematous left breast.
   ABDOMEN: Very obese, with peau-d'orange skin changes. Large area of
   erythema and warmth in left lower abdomen extending into intertrigous
   area under pannus, with areas of ulceration and skin necrosis  Abdomen
   tender only in area with skin changes..
   EXTREMITIES: 3+ LLE edema. 1+ RLE edema. Unable to palpate pulses [**1-21**]
   edema, but extremities are warm and well-perfused.
   SKIN: Ulceration of bilateral knees, right heel, and right elbow, with
   black eschar over ulcers. Cellulitis of left leg. Abdominal cellulitis
   as noted above. Sacral decubitus ulcer.
   NEURO: A&Ox3. Appropriate. CN II-XII intact. Strength 5/5 in upper
   extremities. Dorsiflexion/plantarflexion [**4-23**] bilaterally. Proximal
   lower extremity strength testing limited by edema. Sensation intact
   distally to light touch.
   Labs / Radiology
   47 K/uL
   7.2 g/dL
   272 mg/dL
   1.2 mg/dL
   23 mEq/L
   5.0 mEq/L
   46 mg/dL
   107 mEq/L
   135 mEq/L
   23.6 %
   22.6 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
                            [**2193-11-6**]  05:18 PM
                            [**2193-11-7**]  03:42 AM
   WBC
   19.2
   27.7
   22.6
   Hct
   24.2
   25.0
   23.6
   Plt
   71
   70
   47
   Cr
   1.2
   1.1
   1.0
   1.2
   TropT
   0.06
   0.05
   Glucose
   117
   199
   255
   272
   Other labs: PT / PTT / INR:15.0/35.7/1.3, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:24/20, Alk Phos / T Bili:143/0.4,
   Differential-Neuts:93.0 %, Band:2.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, Albumin:1.7 g/dL, LDH:173 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 62 yo F with abdominal cellulitis, elevated WBC,
   sinus tachycardia, hypotension requiring dopamine, hypoxemia, left
   lower extremity edema, concerning for necrotic cellulitis as well as
   sepsis.
   .
   #. Hypotension: Resoling, the patient no longer is requiring pressors.
   Likely [**1-21**] sepsis although DDx included pulmonary embolism. Elevated
   WBC, bandemia, and clear focus of infection support sepsis.
   -bolus with IVF to keep MAP> 65
   -F/u blood, urine, wound Cultures
   -place PICC line today and remove CVL from OSH
   -monitor UOP
   -trend fever curve, WBC
   .
   #. Necrotic abdominal wounds/cellulitis: Patient seen by plastic
   surgery, who feel that this is not necrotizing fasciitis and recommend
   conservative management for now.  Vanco trough therapeutic.
   -appreciate plastic surgery recs
   -f/u general surgery recs
   Switch Vanco/Zosyn to Dapto/Meropenem
   -f/u cultures
   -wound care per wound care and plastics recs
   .
   #. Thrombocytopenia: Platelets continuing to decline, likely HIT vs.
   Vancomycin-Induced Thrombocytopenia.
   -trend platelets
   -f/u HIT antibody
   -D/c Fondaparinux
   - Switch Vanco/Zosyn to Dapto/Meropenem
   .
   #. DM2: Re-started on Lantus in addition to HISS now that the pt. is
   taking POs.  BGs still in 200s, so will increase dose of Lantus and
   uptitrate SS.
   -F/u BG and adjust Insulin as needed
   .
   #. Rheumatoid arthritis: Immunosuppressive meds are predisposing factor
   for sepsis in this patient.
   -hold methotrexate, Cytotec, and Embrel in the setting of infection
   .
   #. c diff: appears to be improving with normal BM here. C. diff
   unlikely to be source of sepsis.
   -continue PO Vanco
   -monitor stool
   .
   #. Anemia: Chronic. Baseline reportedly around around 24. Iron studies
   at [**Location (un) **] showed low iron, with iron 18, TIBC, 138, ferritin 772,
   consistent with iron deficiency and/or chronic disease.
   -monitor Hct
   -transfuse for Hct<21
   -T & S
   .
   #. Acute on chronic renal failure: Likely prerenal in the setting of
   hypotension
   -monitor creatinine
   -renally dose meds
   -avoid nephrotoxins
   ICU Care
   Nutrition: Diabetic diet, replete lytes PRN
   Glycemic Control: continue insulin sliding scale and Lantus
   Lines:
   Multi Lumen - [**2193-11-5**] 07:00 PM (d/c this line today)
   Place PICC today for access.
   Prophylaxis:
   DVT: None
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Her sister [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11596**] [**Telephone/Fax (1) 11597**].
   Code status: Full code, confirmed with patient.
   Disposition: call out today

2193-11-08 07:57:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2193-11-7**] 01:30 PM
 MULTI LUMEN - STOP [**2193-11-7**] 05:34 PM
   inserted  in OSH
   -Lantus and Humalog sliding scale doses adjusted, but still BGs in
   200s, so will need to go up further in AM
   -Switched on Depto/[**Last Name (un) **] for Abx coverage given concern for
   Vanco-induced thrombocytopenia
   Allergies:Penicillins- Rash
   Aspirin-Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2193-11-6**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-7**] 07:45 AM
   Vancomycin - [**2193-11-7**] 08:21 AM
   Meropenem - [**2193-11-7**] 02:42 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-8**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 100 (79 - 103) bpm
   BP: 104/29(48) {97/28(47) - 125/65(76)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 24 (22 - 30)mmHg
   Total In:
                                                                  2,881 mL
                                                                      2 mL
   PO:
                                                                    550 mL
   TF:
   IVF:
                                                                  2,331 mL
                                                                      2 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    280 mL
   Urine:
                                                                    765 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,116 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   7.2 g/dL
   227 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.9 mEq/L
   55 mg/dL
   108 mEq/L
   138 mEq/L
   23.4 %
   26.9 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
                            [**2193-11-6**]  05:18 PM
                            [**2193-11-7**]  03:42 AM
                            [**2193-11-8**]  03:39 AM
   WBC
   19.2
   27.7
   22.6
   26.9
   Hct
   24.2
   25.0
   23.6
   23.4
   Plt
   71
   70
   47
   52
   Cr
   1.2
   1.1
   1.0
   1.2
   1.2
   TropT
   0.06
   0.05
   Glucose
   117
   199
   255
   272
   227
   Other labs: PT / PTT / INR:15.0/32.4/1.3, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:24/22, Alk Phos / T Bili:156/0.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, Albumin:1.7 g/dL, LDH:191 IU/L, Ca++:7.5
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   62 yo F with abdominal cellulitis, elevated WBC, sinus tachycardia,
   hypotension requiring dopamine, hypoxemia, left lower extremity edema,
   concerning for necrotic cellulitis as well as sepsis.
   .
   #. Hypotension: Resolving, the patient no longer is requiring
   pressors.  Likely [**1-21**] sepsis although DDx included pulmonary embolism.
   Elevated WBC, bandemia, and clear focus of infection support sepsis.
   -bolus with IVF to keep MAP> 65
   -F/u blood, urine, wound Cultures
   -place PICC line today and remove CVL from OSH
   -monitor UOP
   -trend fever curve, WBC
   .
   #. Necrotic abdominal wounds/cellulitis: Patient seen by plastic
   surgery, who feel that this is not necrotizing fasciitis and recommend
   conservative management for now.  Vanco trough therapeutic.
   -appreciate plastic surgery recs
   -f/u general surgery recs
   Switch Vanco/Zosyn to Dapto/Meropenem
   -f/u cultures
   -wound care per wound care and plastics recs
   .
   #. Thrombocytopenia: Platelets continuing to decline, likely HIT vs.
   Vancomycin-Induced Thrombocytopenia.
   -trend platelets
   -f/u HIT antibody
   -D/c Fondaparinux
   - Switch Vanco/Zosyn to Dapto/Meropenem
   .
   #. DM2: Re-started on Lantus in addition to HISS now that the pt. is
   taking POs.  BGs still in 200s, so will increase dose of Lantus and
   uptitrate SS.
   -F/u BG and adjust Insulin as needed
   .
   #. Rheumatoid arthritis: Immunosuppressive meds are predisposing factor
   for sepsis in this patient.
   -hold methotrexate, Cytotec, and Embrel in the setting of infection
   .
   #. c diff: appears to be improving with normal BM here. C. diff
   unlikely to be source of sepsis.
   -continue PO Vanco
   -monitor stool
   .
   #. Anemia: Chronic. Baseline reportedly around around 24. Iron studies
   at [**Location (un) **] showed low iron, with iron 18, TIBC, 138, ferritin 772,
   consistent with iron deficiency and/or chronic disease.
   -monitor Hct
   -transfuse for Hct<21
   -T & S
   .
   #. Acute on chronic renal failure: Likely prerenal in the setting of
   hypotension
   -monitor creatinine
   -renally dose meds
   -avoid nephrotoxins
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2193-11-7**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-11-08 08:02:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2193-11-7**] 01:30 PM
 MULTI LUMEN - STOP [**2193-11-7**] 05:34 PM
   inserted  in OSH
   -Lantus and Humalog sliding scale doses adjusted, but still BGs in
   200s, so will need to go up further in AM
   -Switched on Depto/[**Last Name (un) **] for Abx coverage given concern for
   Vanco-induced thrombocytopenia
   - dc
d her heparin flush for PICC b/c concern for HIT
   Allergies:Penicillins-- Rash;
   Aspirin--Rash;
   Heparin Agents
   Thrombocytopenia
   Last dose of Antibiotics:
   Piperacillin - [**2193-11-6**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-7**] 07:45 AM
   Vancomycin - [**2193-11-7**] 08:21 AM
   Meropenem - [**2193-11-7**] 02:42 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-8**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 100 (79 - 103) bpm
   BP: 104/29(48) {97/28(47) - 125/65(76)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 24 (22 - 30)mmHg
   Total In:
                                                                  2,881 mL
                                                                      2 mL
   PO:
                                                                    550 mL
   TF:
   IVF:
                                                                  2,331 mL
                                                                      2 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    280 mL
   Urine:
                                                                    765 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,116 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   GENERAL: Morbidly obese woman in NAD.
   HEENT: Normocephalic, atraumatic. No scleral icterus.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI systolic
   murmur at right sternal border.
   LUNGS: Quiet lungs sounds throughout.
   BREASTS: Edematous left breast.
   ABDOMEN: Very obese, with peau-d'orange skin changes. Large area of
   erythema and warmth in left lower abdomen extending into intertrigous
   area under pannus, with areas of ulceration and skin necrosis  Abdomen
   tender only in area with skin changes..
   EXTREMITIES: 3+ LLE edema. 1+ RLE edema. Unable to palpate pulses [**1-21**]
   edema, but extremities are warm and well-perfused.
   SKIN: Ulceration of bilateral knees, right heel, and right elbow, with
   black eschar over ulcers. Cellulitis of left leg. Abdominal cellulitis
   as noted above. Sacral decubitus ulcer.
   NEURO: A&Ox3. Appropriate. CN II-XII intact. Strength 5/5 in upper
   extremities. Dorsiflexion/plantarflexion [**4-23**] bilaterally. Proximal
   lower extremity strength testing limited by edema. Sensation intact
   distally to light touch.
   Labs / Radiology
   52 K/uL
   7.2 g/dL
   227 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.9 mEq/L
   55 mg/dL
   108 mEq/L
   138 mEq/L
   23.4 %
   26.9 K/uL
        [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
                            [**2193-11-6**]  05:18 PM
                            [**2193-11-7**]  03:42 AM
                            [**2193-11-8**]  03:39 AM
   WBC
   19.2
   27.7
   22.6
   26.9
   Hct
   24.2
   25.0
   23.6
   23.4
   Plt
   71
   70
   47
   52
   Cr
   1.2
   1.1
   1.0
   1.2
   1.2
   TropT
   0.06
   0.05
   Glucose
   117
   199
   255
   272
   227
   Other labs: PT / PTT / INR:15.0/32.4/1.3, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:24/22, Alk Phos / T Bili:156/0.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, Albumin:1.7 g/dL, LDH:191 IU/L, Ca++:7.5
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   62 yo F with abdominal cellulitis, elevated WBC, sinus tachycardia,
   hypotension requiring dopamine, hypoxemia, left lower extremity edema,
   concerning for necrotic cellulitis as well as sepsis.
   .
   #. Hypotension: Resoling, the patient no longer is requiring pressors.
   Likely [**1-21**] sepsis although DDx included pulmonary embolism. Elevated
   WBC, bandemia, and clear focus of infection support sepsis.
   -bolus with IVF to keep MAP> 65
   -F/u blood, urine, wound Cultures
   -place PICC line today and remove CVL from OSH
   -monitor UOP
   -trend fever curve, WBC
   .
   #. Necrotic abdominal wounds/cellulitis: Patient seen by plastic
   surgery, who feel that this is not necrotizing fasciitis and recommend
   conservative management for now.  Vanco trough therapeutic.
   -appreciate plastic surgery recs
   -f/u general surgery recs
   Switch Vanco/Zosyn to Dapto/Meropenem
   -f/u cultures
   -wound care per wound care and plastics recs
   .
   #. Thrombocytopenia: Platelets continuing to decline, likely HIT vs.
   Vancomycin-Induced Thrombocytopenia.
   -trend platelets
   -f/u HIT antibody
   -D/c Fondaparinux
   - Switch Vanco/Zosyn to Dapto/Meropenem
   .
   #. DM2: Re-started on Lantus in addition to HISS now that the pt. is
   taking POs.  BGs still in 200s, so will increase dose of Lantus and
   uptitrate SS.
   -F/u BG and adjust Insulin as needed
   .
   #. Rheumatoid arthritis: Immunosuppressive meds are predisposing factor
   for sepsis in this patient.
   -hold methotrexate, Cytotec, and Embrel in the setting of infection
   .
   #. c diff: appears to be improving with normal BM here. C. diff
   unlikely to be source of sepsis.
   -continue PO Vanco
   -monitor stool
   .
   #. Anemia: Chronic. Baseline reportedly around around 24. Iron studies
   at [**Location (un) **] showed low iron, with iron 18, TIBC, 138, ferritin 772,
   consistent with iron deficiency and/or chronic disease.
   -monitor Hct
   -transfuse for Hct<21
   -T & S
   .
   #. Acute on chronic renal failure: Likely prerenal in the setting of
   hypotension
   -monitor creatinine
   -renally dose meds
   -avoid nephrotoxins
   Nutrition: Diabetic diet, replete lytes PRN
   Glycemic Control: continue insulin sliding scale and Lantus
   Lines:
   Multi Lumen - [**2193-11-5**] 07:00 PM (d/c this line today)
   Place PICC today for access.
   Prophylaxis:
   DVT: None
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Her sister [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11596**] [**Telephone/Fax (1) 11597**].
   Code status: Full code, confirmed with patient.
   Disposition: call out today

2193-11-08 11:15:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2193-11-7**] 01:30 PM
 MULTI LUMEN - STOP [**2193-11-7**] 05:34 PM
   inserted  in OSH
 CALLED OUT
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Aspirin
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2193-11-6**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-11-7**] 07:45 AM
   Vancomycin - [**2193-11-7**] 08:21 AM
   Meropenem - [**2193-11-7**] 02:42 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2193-11-8**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 96 (79 - 103) bpm
   BP: 113/46(61) {97/28(47) - 125/65(76)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 24 (24 - 25)mmHg
   Total In:
                                                                  2,881 mL
                                                                      2 mL
   PO:
                                                                    550 mL
   TF:
   IVF:
                                                                  2,331 mL
                                                                      2 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    420 mL
   Urine:
                                                                    765 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,116 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   52 K/uL
   227 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.9 mEq/L
   55 mg/dL
   108 mEq/L
   138 mEq/L
   23.4 %
   26.9 K/uL
         [image002.jpg]
                            [**2193-11-5**]  05:42 PM
                            [**2193-11-5**]  09:30 PM
                            [**2193-11-6**]  12:11 AM
                            [**2193-11-6**]  04:39 AM
                            [**2193-11-6**]  05:18 PM
                            [**2193-11-7**]  03:42 AM
                            [**2193-11-8**]  03:39 AM
   WBC
   19.2
   27.7
   22.6
   26.9
   Hct
   24.2
   25.0
   23.6
   23.4
   Plt
   71
   70
   47
   52
   Cr
   1.2
   1.1
   1.0
   1.2
   1.2
   TropT
   0.06
   0.05
   Glucose
   117
   199
   255
   272
   227
   Other labs: PT / PTT / INR:15.0/32.4/1.3, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:24/22, Alk Phos / T Bili:156/0.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Fibrinogen:392 mg/dL, Albumin:1.7 g/dL, LDH:191 IU/L, Ca++:7.5
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 DIABETES:   Poor glycemic control in setting of ongoing infection.
   Increase lantus.
 HYPOXEMIA:  Obesity hypoventilation syndrome.  No change.
 THROMBOCYTOPENIA:  Workup in progress.  Plts stable.  Now off vanco.
   Following labs.
 HYPOTENSION (NOT SHOCK): Continues off pressors, hemodynamically
   stable, OK to go to the floor.
 ABDOMINAL WALL CELLULITIS/WOUND:  Debrided by plastic surgery at the
   bedside, now followed by wound care for dressing changes.  Now on
   dapto/meropeneim.
 C. DIFF:  Continue oral vanco.  Diarrhea continues.  WBC climbing,
   will start IV flagyl.  Repeat stool for C. Diff.
 ACUTE RENAL INSUFFICIENCY:  Stable Cr, adequate urine output.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2193-11-7**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes